US08357693B2
tert-butyl 5-(6-acetoxy-2-(3-aminophenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate
To a mixture of tert-butyl 5-(6-acetoxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.40 g, 0.70 mmol) in MeOH (100 mL) was added Pd/C (0.15 g) under an atmosphere of N2. The mixture was then stirred under an atmosphere of H2 (balloon pressure) for 48 h at RT. The mixture was filtered through a pad of Celite® washing with MeOH. The filtrate was concentrated in vacuo to give the desired product tert-butyl 5-(6-acetoxy-2-(3-aminophenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate. (0.23 g, 0.43 mmol, 61%). HPLC retention time 5.748 mins.

reactant | tert-butyl 5-(6-acetoxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.70 mmol, 0.40 g | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C29H26N6O7
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | tert-butyl 5-(6-acetoxy-2-(3-aminophenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)N)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C29H28N6O5
